US06110962
4-(6-Iodo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenol
To a solution of methanesulfonic acid 4-(6-iodo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenyl ester (1.00 g, 1.89 mmol) in tetrahydrofuran (5 mL) was added a 2.5 N aqueous solution of sodium hydroxide (6.0 mL) and the biphasic reaction mixture was heated at reflux for 5 hours and then heated in a sealed pressure tube at 110 C. for about 18 hours. The reaction mixture was diluted with water (100 mL), acidified with 10% hydrochloric acid and the organics were extracted with ether (2×100 mL). The extracts were combined, washed with water (100 mL), concentrated and chased with petroleum ether to give the title compound (0.869 g, over theoretical); NMR (DMSO-d6); δ 9.85 (s, 1H, OH), 8.15 (d, J=8 Hz, 1H), 8.02 (d, J=8 Hz, 1H), 7.73 (ddd, J=8, 7, 1 Hz, 1H), 7.69-7.44 (m, 3H), 7.21-7.16 (m, 3H), 7.09-7.06 (m, 2H), 6.68 (d, J=8Hz, 1H).

reactant | methanesulfonic acid 4-(6-iodo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenyl ester | 1.89 mmol, 1.00 g | IC1=C2C=CC=CC2=C(C=2C3=C(SC21)C=CC=C3)C3=CC=C(C=C3)OS(=O)(=O)C | C23H15IO3S2
reactant | sodium hydroxide | 6.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 4-(6-Iodo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenol | 0.869 g | IC1=C2C=CC=CC2=C(C=2C3=C(SC21)C=CC=C3)C3=CC=C(C=C3)O | C22H13IOS
